US04256761
To N-(3-Acetylthio-2-methylpropanoyl)-N-cyclohexylglycine (5.1 g, 16.9 mol) was added 100 ml of ammonia-saturated methanol, and the resulting solution stirred for 2.5 hours at room temperature under nitrogen. The solution was concentrated and the residue dissolved in methanol and passed through a column of AG-50W-X2 cation exchange resin. Those fractions showing a positive nitroprusside test were combined and concentrated. This material was then purified by medium pressure liquid chromatography eluting with ethyl acetate/hexane/acetic acid, 48:48:2 to give 0.7 g of N-(3-mercapto-2-methylpropanoyl)-N-cyclohexylglycine as an oil. The compound was characterized as its DCHA salt, prepared by dissolving the acid in ether and adding DCHA to pH 9. The salt was isolated as a white crystalline solid, m.p. 158°-160°.

reactant | N-(3-Acetylthio-2-methylpropanoyl)-N-cyclohexylglycine | 16.9 mol, 5.1 g | C(C)(=O)SCC(C(=O)N(CC(=O)O)C1CCCCC1)C | C14H23NO4S
solvent | ammonia | 100 ml | N | H3N
product | N-(3-mercapto-2-methylpropanoyl)-N-cyclohexylglycine | 0.7 g | SCC(C(=O)N(CC(=O)O)C1CCCCC1)C | C12H21NO3S
